US05216015
Step 12: Preparation of 12α-(2,2-dimethyl)butyryloxy-3α-tert-butyldimethylsilyloxy-17-trimethylsilyloxy-5β-androst-16-ene
A mixture of 1.0M lithium bis(trimethylsilyl)amide in hexanes (3 ml) and tetrahydrofuran (3 ml) is cooled to -78° C. and the 12α-(2,2-dimethyl)butyryloxy-3α-tert-butyldimethylsilyloxy-5β-androstan-17-one (1.15 g) in tetrahydrofuran (1 ml) is added dropwise. The mixture is stirred for about 10 minutes and chlorotrimethylsilane (0.38 ml) added. The resulting solution is warmed to room temperature, diluted with hexane and washed with water. The organic solution is dried over magnesium sulfate, filtered, evaporated in vacuo to give the desired product which is used, without further treatment, for the next step.

reactant | lithium bis(trimethylsilyl)amide | 1.0M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 12α-(2,2-dimethyl)butyryloxy-3α-tert-butyldimethylsilyloxy-5β-androstan-17-one | 1.15 g | CC(C(=O)O[C@H]1C[C@@H]2[C@]3(CC[C@H](C[C@H]3CC[C@H]2[C@@H]2CCC([C@]21C)=O)O[Si](C)(C)C(C)(C)C)C)(CC)C | C31H54O4Si
reactant | chlorotrimethylsilane | 0.38 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 12α-(2,2-dimethyl)butyryloxy-3α-tert-butyldimethylsilyloxy-17-trimethylsilyloxy-5β-androst-16-ene | CC(C(=O)O[C@H]1C[C@@H]2[C@]3(CC[C@H](C[C@H]3CC[C@H]2[C@@H]2CC=C([C@]21C)O[Si](C)(C)C)O[Si](C)(C)C(C)(C)C)C)(CC)C | C34H62O4Si2
